US08748613B2
2-Chloroacetyl chloride (0.21 ml, 2.66 mmol) was dissolved in DCM (10 ml) and the solution was cooled to 0° C. with an ice-bath. Isoxazol-3-amine (0.41 ml, 5.58 mmol) was added dropwise and a white suspension was obtained. The mixture was stirred at room temperature for 2 hours, then the suspension was evaporated and the residue was purified by flash chromatography (ether/EtOAc=8/2 to 7/3) to obtain 2-chloro-N-(isoxazol-3-yl)acetamide (367 mg, 86% yield) as an off-white solid.

reactant | 2-Chloroacetyl chloride | 2.66 mmol, 0.21 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | Isoxazol-3-amine | 5.58 mmol, 0.41 ml | O1N=C(C=C1)N | C3H4N2O
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(isoxazol-3-yl)acetamide | 367 mg, 86% yield | ClCC(=O)NC1=NOC=C1 | C5H5ClN2O2
